US04748248
By allowing 3.1 g of the methyl ester of 9,10-didehydro-6-n-propyl-8β-ergoline carboxylic acid to stand in a solution of ammonia in ethylene glycol, a mixture of the isomeric amides is obtained; chromatographic separation of the reaction product yields 1.2 g of 9,10-didehydro-6-n-propyl-8α-ergoline carboxylic acid amide. [α]D25 =+297°; c=0.5 (pyridine).

reactant | 9,10-didehydro-6-n-propyl-8β-ergoline carboxylic acid | C(CC)N1C[C@@H](C=C2C=3C=CC=C4NC=C(C[C@@H]12)C34)C(=O)O | C18H20N2O2
reactant | ammonia | N | H3N
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 9,10-didehydro-6-n-propyl-8α-ergoline carboxylic acid amide | 1.2 g | C(CC)N1C[C@H](C=C2C=3C=CC=C4NC=C(C[C@@H]12)C34)C(=O)N | C18H21N3O
